US05025025
A mixture of 5.84 g (25.8 mmol) 4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne, 4.7 mL diethylamine, 10 mL (100 mmol) 3-bromopyridine, 0.032 g copper (I) iodide, and 0.187 g bis-triphenylphosphine palladium (II) chloride is stirred at room temperature for 18 hours. The solvent is evaporated and the residue taken up in ether. The ether layer is washed with saturated aqueous sodium bicarbonate, water, brine, dried, filtered and evaporated to get an amber oil which is purified by chromatography using ether as the eluent to give 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne; NMR (CDCl3): delta 4.6 (brs,1H), 2.6 (d,2H).

reactant | 4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne | 25.8 mmol, 5.84 g | OC(CC#C)CCCCOC1OCCCC1 | C13H22O3
reactant | diethylamine | 4.7 mL | C(C)NCC | C4H11N
reactant | 3-bromopyridine | 100 mmol, 10 mL | BrC=1C=NC=CC1 | C5H4BrN
catalyst | copper (I) iodide | 0.032 g | [Cu]I
product | 1-(3-pyridyl)-4-hydroxy-8-(2-tetrahydropyranyloxy)-1-octyne | N1=CC(=CC=C1)C#CCC(CCCCOC1OCCCC1)O | C18H25NO3
